US20010012857A1
A mixture of 2.11 g (10 mmol) 3,3-diphenylpropylamine (Aldrich), (0.54 g, 4.54 mmol) bromoacetonitrile (Aldrich), and 2.5 g potassium carbonate in 5 ml acetonitrile was stirred at room temperature for 16 hours. The reaction mixture was diluted with dichloromethane, washed with water, the solvent evaporated, and the residue chromatographed on silica gel column with 30% ethyl acetate in hexanes to give 1.24 g (yield 50%) N-cyanomethyl-3,3-diphenylpropylamine as an oil -which solidified on standing. 1H NMR (CDCl3, 300 MHz) 7.45-7.10 (m, 10 H), 4.05 (t, 1 H), 3.50 (s, 2 H), 2.67 (t, 2 H), 2.23 (dt, 2H); 13C NMR (CDCl3, 75 MHz) 144.25, 128.53, 127.68, 126.33, 117.72, 48.58, 47.13, 37.19, 35.14.

reactant | 3,3-diphenylpropylamine | 10 mmol, 2.11 g | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-cyanomethyl-3,3-diphenylpropylamine | 1.24 g, yield 50% | C(#N)CNCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C17H18N2
